US07906528B2
Synthesis of 5-(2,6-Diethyl-Phenyl)-1-(4,6-Dimethyl-Pyrimidin-2-yl)-1H-Pyrrolo[2,3-c]Pyridine
To a solution of 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (10 mg, 0.04 mmol) in DMF (0.5 mL) is added NaH (95%, 3 mg). The reaction mixture is stirred at room temperature for 30 minutes, and then 2-chloro-4,6-dimethyl-pyrimidine (17 mg, 0.12 mmol)) is added. The mixture is heated at 60° C. overnight and cooled. Water (1 mL) and EtOAc (2 mL) are added to the mixture. The organic layer is separated, washed with water once and concentrated under reduced pressure. The residue is purified by PTLC (Hexane/EtOAc 4:1) to give the titled compound. 1H NMR: (CDCl3) 10.21 (s, 1H), 8.48 (d, 1H), 7.47 (s, 1H), 7.28 (t, 1H), 7.15 (d, 2H), 6.87 (s, 1H), 6.68 (d, 1H), 2.55 (s, 6H), 2.36 (m, 4H), 1.03 (t, 6H).

reactant | 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 0.04 mmol, 10 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | NaH | 3 mg | [H-].[Na+]
reactant | 2-chloro-4,6-dimethyl-pyrimidine | 0.12 mmol, 17 mg | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | Water | 1 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 5-(2,6-Diethyl-Phenyl)-1-(4,6-Dimethyl-Pyrimidin-2-yl)-1H-Pyrrolo[2,3-c]Pyridine | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2)C2=NC(=CC(=N2)C)C | C23H24N4
